US05489593
1-[3-(1,1-Dimethylethylamino)-2-pyrazinyl]piperazine (II)
Following the general procedure of PREPARATION 25 and making non-critical variations but starting with 2-chloro-3-(1,1-dimethylethylamino)pyrazine (PREPARATION 26, 0.95 g) and piperazine, the title compound is obtained, NMR (CDCl3) 1.47, 1.70, 2.99, 5.02, 7.46 and 7.69 δ.

reactant | 2-chloro-3-(1,1-dimethylethylamino)pyrazine | 0.95 g | ClC1=NC=CN=C1NC(C)(C)C | C8H12ClN3
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 1-[3-(1,1-Dimethylethylamino)-2-pyrazinyl]piperazine | CC(C)(C)NC=1C(=NC=CN1)N1CCNCC1 | C12H21N5
